US03960847
9-[[(o-carboethoxy)benzyl]oxy]-4-oxo-4H-pyrido[1,2-α]-pyrimidine-3-carboxylic Acid, Ethyl Ester, Hydrobromide
To a solution of 5.0 g of ethyl α-bromo-o-toluate, 4.7 g of 9-hydroxy-4-oxo-4H-pyrido[1,2-α]pyrimidine-3-carboxylic acid, ethyl ester, and 200 ml of ethyl methyl ketone is added 3.9 g of anhydrous dipotassium hydrogen phosphate and the mixture stired and heated under reflux for 18 hours. The cooled mixture is filtered, and the filtrate is concentrated in vacuo to give a semi-solid product. To this product, 3.9 g, in 10 ml of acetic acid is added a solution of 0.81 g of hydrogen bromide in 4 ml of glacial acetic acid, dropwise, with agitation. The crystalline product that separates is filtered, washed with anhydrous ether, and recrystallized from acetonitrile to give the named product.

reactant | ethyl α-bromo-o-toluate | 5.0 g | BrCC=1C(=CC=CC1)C(=O)OCC | C10H11BrO2
reactant | 9-hydroxy-4-oxo-4H-pyrido[1,2-α]pyrimidine-3-carboxylic acid, ethyl ester | 4.7 g | OC1=CC=CN2C1=NC=C(C2=O)C(=O)OCC | C11H10N2O4
reactant | dipotassium hydrogen phosphate | 3.9 g | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | hydrogen bromide | 0.81 g | Br | BrH
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | ethyl methyl ketone | 200 ml | CC(=O)CC | C4H8O
product | 9-[[(o-carboethoxy)benzyl]oxy]-4-oxo-4H-pyrido[1,2-α]-pyrimidine-3-carboxylic Acid, Ethyl Ester, Hydrobromide | Br.C(=O)(OCC)C1=C(COC2=CC=CN3C2=NC=C(C3=O)C(=O)OCC)C=CC=C1 | InChI=1S/C21H20N2O6.BrH/c1-3-27-20(25)15-9-6-5-8-14(15)13-29-17-10-7-11-23-18(17)22-12-16(19(23)24)21(26)28-4-2;/h5-12H,3-4,13H2,1-2H3;1H
